US05710322
The procedure described under h) was carried out using 15 g of ethyl trimethyl-pyruvate and 50 g of (R)-1-phenylethylamine. There were isolated 14.9 g of (47%) of (R)-3,3-dimethyl-N-[(R)-1-phenylethyl]-2-(1-phenylethylimino)-butyramide of melting point 95°-96° C. [α]=+59.6 (c=1.0, CHCl3).

reactant | ethyl trimethyl-pyruvate | 15 g | CC(C(C(=O)OCC)=O)(C)C | C8H14O3
reactant | (R)-1-phenylethylamine | 50 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)-3,3-dimethyl-N-[(R)-1-phenylethyl]-2-(1-phenylethylimino)-butyramide | 14.9 g, 47% | CC(C(C(=O)N[C@H](C)C1=CC=CC=C1)=N[C@H](C)C1=CC=CC=C1)(C)C | C22H28N2O
